US04705786
To a stirred solution of 1.06 g of 2-cyanoethyl 1,4-dihydro-2,6-dimetyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylate in 5 ml of ethylene glycol dimethyl ether was added a solution of 240 mg of sodium hydroxide in 10 ml of water. The reaction mixture was stirred at room temperature for 7 hours and then diluted by adding 5 ml of water. The mixture was washed with three 20 ml portions of methylene chloride and then acidified with dilute hydrochloric acid until the pH of the solution was about 1. The solution was decanted and the oily precipitate was dissolved in isopropyl alcohol. After the organic phase was concentrated in vacuo, the residue was chromatographed on silica gel using chloroform-isopropyl alcohol (10:1) as eluent to give 0.715 g of 1,4-dihydro-2,6-dimethyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylic acid as an amorphous solid. Recrystallization from ethyl acetate-isopropyl ether gave colorless crystals, m.p. 171° C. (decomp.)

reactant | 2-cyanoethyl 1,4-dihydro-2,6-dimetyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylate | 1.06 g | CC=1NC(=C(C(C1C1=NC(=NO1)CN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C | C28H28N6O5
reactant | sodium hydroxide | 240 mg | [OH-].[Na+]
solvent | ethylene glycol dimethyl ether | 5 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 1,4-dihydro-2,6-dimethyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylic acid | 0.715 g | CC=1NC(=C(C(C1C1=NC(=NO1)CN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C25H25N5O5
